US04758670
A mixture of 20 g of 1-fluoro-1-(1H-1,2,4-triazol-1-yl)-3,3-dimethyl-2-butanone, 13.5 g of potassium tertiary butylate, 24.0 g of trimethylsulfoxonium iodide, 80 ml of tetrahydrofuran and 20 ml of dimethyl sulfoxide is stirred at 60° C. for 6 hours. The reaction mixture is then taken up in ice water and extracted with ethyl acetate. The combined organic phases are washed with water and saturated sodium chloride solution, dried over sodium sulfate and evaporated. Crystallisation from petroleum ether gives 6.9 g of 2-tert.-butyl-2-[(1H-1,2,4-triazol-1-yl)-fluoromethyl]-oxirane, melting point 72°-74° C.

reactant | 1-fluoro-1-(1H-1,2,4-triazol-1-yl)-3,3-dimethyl-2-butanone | 20 g | FC(C(C(C)(C)C)=O)N1N=CN=C1 | C8H12FN3O
reactant | trimethylsulfoxonium iodide | 24.0 g | [I-].C[S+](=O)(C)C
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 2-tert.-butyl-2-[(1H-1,2,4-triazol-1-yl)-fluoromethyl]-oxirane | 6.9 g | C(C)(C)(C)C1(OC1)C(F)N1N=CN=C1 | C9H14FN3O
